Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Codeine / NSAIDS (Non-Steroidal Anti-Inflammatory 
Drug) / morphine / prochlorperazine
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ w/substance abuse on methadone who presents with recurrent 
abdominal pain, n/v. Pt ___ and ___ with abd pain, n/v. On 
both admissions pt with normal labs and only finding on CT was 
large stool burden. Pt treated for constipation and esophagitis 
and pain improved. She reports not having any BMs since 
discharge. Has not eaten anything in past 2 days due to nausea 
and vomiting with some dark red-tinged emesis.
Of note there has been concern for pt abusing her methadone, 
running out early, is in the process of tapering dose with PCP.
In ED bariatric surgery consulted. Rec CT scan which did not 
show obstruction, but did find large stool burden. Pt given 
zofran and dilaudid. Emesis was witnessed yellow, no blood seen.

On arrival to the floor pt reports abdominal pain. Upset because 
she does not think sx are due to constipation. Also upset that 
she will not be given dilaudid for pain. States she has been 
compliant with all medications since discharge. Denies chest 
pain.

ROS: +as above, otherwise reviewed and negative

 
Past Medical History:
-Morbid obesity (max 448lbs) s/p gastric bypass & CCY ___ at  
___ and complete reversal  
-History of HTN, DM, asthma (prior to gastric bypass)  
-Opiate addiction: prior intranasal herion, oral dilaudid abuse, 
now on methadone  
-Depression/Anxiety  
-Esophagitis: EGD ___ showed mild active esophagitis.
-DVT/PE ___  
-DJD  
-2 SBOs  
-Menopause completed  

Past Surgical History:  
-___- gastric bypass & CCY and subsequent complete  
reversal  
-7 surgeries on the abdomen. "stomach leak" hernia, 2 SBOs,  
attempted reverse of the gastric bypass, the most recent in ___
 
Social History:
___
Family History:
Mother with diabetes
 
Physical Exam:
Vitals: T:98.2 BP:100/68 P:84 R:16 O2:99%ra  
PAIN: 8
General: nad
Lungs: clear
CV: rrr no m/r/g
Abdomen: hypoactive bowel sounds present, soft, mild diffuse 
tenderness
Ext: no e/c/c
Skin: no rash
Neuro: alert, follows commands

 
Pertinent Results:
___ 03:00PM   GLUCOSE-90 UREA N-9 CREAT-0.6 SODIUM-140 
POTASSIUM-4.5 CHLORIDE-103 TOTAL CO2-26 ANION GAP-16
___ 03:00PM   LIPASE-10
___ 03:00PM   CALCIUM-9.2 PHOSPHATE-4.0 MAGNESIUM-2.1
___ 03:00PM   WBC-4.4 RBC-3.79* HGB-11.6* HCT-37.2 MCV-98 
MCH-30.7 MCHC-31.3 RDW-15.7*
___ 03:00PM   NEUTS-66.5 ___ MONOS-3.3 EOS-0.7 
BASOS-0.9
___ 03:00PM   PLT COUNT-286
___ 03:00PM   ___ PTT-29.3 ___

CT Abd/Pel: 
1.  No evidence of bowel obstruction.  Moderate colonic fecal 
load with no evidence of colitis.   
2.  Stable central intrahepatic biliary dilatation.   

 
Brief Hospital Course:
___ yo F with history of gastric bypass s/p reversal and chronic 
pain, on methadone who presents with recurrent abdominal pain 
due to constipation. 

Constipation: Patient was treated with an aggressive bowel 
regimen which produced a bowel movement on admission. The 
patient was advised that she was safe for discharge, but she 
requested a gastroenterology consultation for her constipation. 
Gastroenterology also felt that an outpatient colonoscopy would 
be indicated. They also recommended an EUS to locate the ampulla 
and confirm that ampullary stenosis was not playing a role in 
her chronically dilated biliary tree, and they recommended 
outpatient B12 injections.

DVT/PE: The patient was continued on enoxaparin bridge while her 
INR was 
subtherapeutic. Coumadin was increased. Of note, the patient did 
report taking lovenox 80mcg bid instead of the prescribed 70mcg 
bid. ___ RN did encourage her to take the prescribed dose. 

Esophagitis: Likely source of scant hematemesis, no blood seen 
since arrival to ED and hematcrit was stable. Pt reported that 
she needed prior authorization for bid omeprazole dosing, so she 
hadn't been taking omeprazole. I called her pharmacy and they 
reported that they had filled omeprazole for daily dosing. I 
encouraged the patient to continue taking her omeprazole daily 
while awaiting prior auth for bid dosing. Of note, the patient 
often refused her Sucralfate while in the hospital.

Chronic pain: Patient is in the midst of a methadone taper per 
her PCP. She was tapered to methadone 5mg daily during this 
hospitalization. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO Q8H:PRN pain 
2. Bisacodyl ___AILY:PRN constipation 
3. BuPROPion (Sustained Release) 150 mg PO QAM 
4. Cholestyramine 2 gm PO BID 
5. ClonazePAM 1 mg PO TID 
6. Cyanocobalamin 1000 mcg PO DAILY 
7. Docusate Sodium 100 mg PO BID 
8. Doxepin HCl 75 mg PO HS 
9. Enoxaparin Sodium 70 mg SC Q12H 
10. Furosemide 40 mg PO DAILY 
11. Gabapentin 600 mg PO Q8H 
12. Maalox/Diphenhydramine/Lidocaine ___ mL PO QID:PRN 
odynophagia  
13. Methadone 5 mg PO BID 
14. Mirtazapine 22.5 mg PO HS 
15. Nicotine Patch 21 mg TD DAILY 
16. Omeprazole 40 mg PO BID 
17. Ondansetron 8 mg PO Q8H:PRN nausea 
18. Polyethylene Glycol 17 g PO BID 
19. QUEtiapine Fumarate 100 mg PO QAM 
20. QUEtiapine Fumarate 300 mg PO QHS 
21. Senna 8.6 mg PO BID 
22. Thiamine 100 mg PO DAILY 
23. Vitamin D 1000 UNIT PO DAILY 
24. Warfarin 7 mg PO DAILY16 
25. Sucralfate 1 gm PO QID 
26. Bisacodyl 10 mg PO BID:PRN constipation 
27. copper gluconate 2 mg oral daily 
28. Fleet Enema ___AILY:PRN constipation 
29. Multivitamins W/minerals 1 TAB PO DAILY 
30. Lidocaine Viscous 2% 15 mL PO TID:PRN reflux/odynophagia 

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H:PRN pain 
2. Bisacodyl 10 mg PO BID:PRN constipation 
3. BuPROPion (Sustained Release) 150 mg PO QAM 
4. Cholestyramine 2 gm PO BID 
5. ClonazePAM 1 mg PO TID 
6. Cyanocobalamin 1000 mcg PO DAILY 
7. Docusate Sodium 100 mg PO BID 
8. Doxepin HCl 75 mg PO HS 
9. Enoxaparin Sodium 70 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 
10. Fleet Enema ___AILY:PRN constipation 
11. Furosemide 40 mg PO DAILY 
12. Gabapentin 600 mg PO Q8H 
13. Lidocaine Viscous 2% 15 mL PO TID:PRN reflux/odynophagia 
14. Maalox/Diphenhydramine/Lidocaine ___ mL PO QID:PRN 
odynophagia  
15. Nicotine Patch 21 mg TD DAILY 
16. Mirtazapine 22.5 mg PO HS 
17. Omeprazole 40 mg PO BID 
18. Polyethylene Glycol 17 g PO BID 
19. QUEtiapine Fumarate 100 mg PO QAM 
20. QUEtiapine Fumarate 300 mg PO QHS 
21. Senna 8.6 mg PO BID 
22. Sucralfate 1 gm PO QID 
23. copper gluconate 2 mg oral daily 
24. Multivitamins W/minerals 1 TAB PO DAILY 
25. Ondansetron 8 mg PO Q8H:PRN nausea 
26. Thiamine 100 mg PO DAILY 
27. Vitamin D 1000 UNIT PO DAILY 
28. Bisacodyl 10 mg PO HS 
29. Warfarin 10 mg PO DAILY16 
RX *warfarin 5 mg 2 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
30. Methadone 5 mg PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Constipation
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted to the hospital with nausea, abdominal pain 
and pain with swallowing. You had a CT scan done of your abdomen 

which showed significant constipation. You were given enemas and 

oral medications with relief of your constipation and 
improvement in your nausea. It is VERY important that you 
continue to take your medications for constipation to prevent 
recurrent abdominal pain.

The gastroenterology team saw you in consultation. They 
recommend that you take a daily bowel regimen in anticipation of 
getting a colonscopy soon. They will schedule you for an 
outpatient colonoscopy.

 
Followup Instructions:
___